US05223518
Step c: α-[(2-Imidazolyl)ethynyl]-benzenemethanol
Place lithium hexamethyldisilazane (3 mL of a 1M solution in tetrahydrofuran, 3 mmol) under argon atmosphere and cool to 0° C.. Add 2-imidazolylacetylene (276 mg, 3 mmol) in tetrahydrofuran (20 mL) and stir at 0° C. until anion formation is complete. Add a solution of benzaldehyde (297 mg, 2.8 mmol) in tetrahydrofuran, remove the ice bath and stir at room temperature until the reaction is complete. Pour onto ethyl ether and water, separate the organic layer and dry (MgSO4). Filter and evaporate the solvent in vacuo. Purify by silica gel chromatography to yield the title compound.

reactant | lithium hexamethyldisilazane | C[Si](N[Si](C)(C)C)(C)C.[Li]
reactant | 2-imidazolylacetylene | 3 mmol, 276 mg | N1C(=NC=C1)C#C | C5H4N2
reactant | benzaldehyde | 2.8 mmol, 297 mg | C(C1=CC=CC=C1)=O | C7H6O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | α-[(2-Imidazolyl)ethynyl]-benzenemethanol | N1C(=NC=C1)C#CC(O)C1=CC=CC=C1 | C12H10N2O
